US08420846B2
Preparation of 1-(3-Hydroxyphenyl)ethylamine (III)
A mixture of 1000 ml of methanolic ammonia, 100 g of 3-hydroxyacetophenone, 25 g of molecular sieves and 10 g of Raney nickel was taken in an autoclave flask at 0-5° C. The autoclave flask was then closed and stirred for 6 h at 75-80° C. without applying hydrogen gas pressure. The reaction mass was further hydrogenated at 75-80° C. by applying 15-20 kg/cm2 pressure of hydrogen gas and the reaction mixture was allowed to stir while maintaining the same conditions of temperature and pressure for 18-22 h. After the completion of the reaction, the reaction mixture was cooled to room temperature and filtered through hyflo bed. The hyflo bed was washed with 200 ml methanol and the solvent distilled off, under reduced pressure at a temperature of 60° C. The reaction mass was cooled to 0-5° C. and stirred for 1 h to obtain a slurry. The solid thus obtained was filtered, washed with ethyl acetate and dried to obtain the title compound.

reactant | 3-hydroxyacetophenone | 100 g | CC(=O)C=1C=CC=C(C1)O | C8H8O2
reactant | hydrogen | [H][H] | H2
reactant | ammonia | 1000 ml | N | H3N
catalyst | Raney nickel | 10 g | [Ni] | Ni
product | 1-(3-Hydroxyphenyl)ethylamine | OC=1C=C(C=CC1)C(C)N | C8H11NO
